US05021432
Trans-4-(2-acetylhydrazino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol, 320 mg, was dissolved in 6 ml of chloroform and to this was added 0.5 ml of pyridine. While stirring under water cooling (20° C.), 0.23 ml of acetyl chloride was added and the mixture was stirred at room temperature for 3 hours. The solvent was distilled off under a reduced pressure, and to the residue was added ice water to scrape and crush it. After filtration and drying, it was recrystallized from ethyl acetate-hexane (1:1) to give 260 mg of trans-4-(1,2-diacetylhydrazino)-6-cyano-3,4-dihydro2,2-dimethyl-2H-1-benzopyran-3-ol as white crystals, m.p. 230°-233° C.

reactant | Trans-4-(2-acetylhydrazino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | C(C)(=O)NN[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C14H17N3O3
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.23 ml | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | trans-4-(1,2-diacetylhydrazino)-6-cyano-3,4-dihydro2,2-dimethyl-2H-1-benzopyran-3-ol | 260 mg | C(C)(=O)N(NC(C)=O)[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C16H19N3O4
